US06423713B1
To a suspension of 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-carboxylic acid, monohydrate prepared in accordance with Example A-200 (0.526 g, 2.0 mmol) in dry THF (15 ml) at reflux under nitrogen, a solution of 1N lithium aluminum hydride in THF (4.0 ml, 4.0 mmol) was added dropwise over 15 minutes. A precipitate formed. The mixture was boiled for an additional hour. Excess lithium aluminum hydride was then decomposed by cautiously adding a solution of 4N potassium hydroxide in water (0.5 ml). Upon hydrolysis, a white salt precipitated. After the addition was complete, the mixture was heated at reflux for 15 minutes. The hot solution was filtered by suction through a Buchner funnel, and remaining product was extracted from the precipitate by refluxing with THF (15 ml) for 1 hour, followed again by suction filtration. The combined filtrates were concentrated under reduced pressure. The resulting residue was taken into ethyl acetate, washed with water and brine, dried over MgSO4 to give a crude product (0.45 g). Recrystallization of the crude product from methanol gave 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-methanol (0.2808 g, 56.5%). DSC: 260.26° C.; Anal. Calc'd for C15H12N3FO (269): C, 66.91; H, 4.49; N, 15.60; Found: C, 66.07; H, 4.63; N, 15.20. MS (MH+): 270 (base peak)

reactant | 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-carboxylic acid, monohydrate | O.FC1=CC=C(C=C1)C1=C(C(=NN1)C(=O)O)C1=CC=NC=C1
reactant | lithium aluminum hydride | 1N | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium hydroxide | 4N | [OH-].[K+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
solvent | THF | 4.0 mmol, 4.0 ml | C1CCOC1 | C4H8O
product | 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-methanol | 0.2808 g, 56.5% | FC1=CC=C(C=C1)C1=C(C(=NN1)CO)C1=CC=NC=C1 | C15H12FN3O
